US04377580
A mixture of 4-amino-6-(3,3-dimethylbutyramido)quinazoline (8.5 g), dimethyl methoxymethylenepropanedioate (12.75 g) and N,N-dimethylformamide (34 g) was stirred for an hour at 100° C. After cooling to ambient temperature, to the resultant mixture was added water to give precipitates, which were separated by filtration, washed with water and dried to give crystalline dimethyl [{6-(3,3-dimethylbutyramido)-4-quinazolinylamino}methylene]propanedioate (10.9 g).

reactant | 4-amino-6-(3,3-dimethylbutyramido)quinazoline | 8.5 g | NC1=NC=NC2=CC=C(C=C12)NC(CC(C)(C)C)=O | C14H18N4O
reactant | dimethyl methoxymethylenepropanedioate | 12.75 g | COC=C(C(=O)OC)C(=O)OC | C7H10O5
reactant | N,N-dimethylformamide | 34 g | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | dimethyl [{6-(3,3-dimethylbutyramido)-4-quinazolinylamino}methylene]propanedioate | 10.9 g | CC(CC(=O)NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OC)C(=O)OC)(C)C | C20H24N4O5
